US05294612
1-Cyclopentyl-3-ethyl-6-(4-quinolinyl)-pyrazolo[3,4-d]-pyrimidin-4-one (1.0 g, 2.7 mmol), platinum oxide (0.15 g) and acetic acid (50 ml) were combined and placed in a parr hydrogenator at 42 psi. The reaction mixture was heated at about 70° C. by an external heating jacket for 6 hours. The reaction mixture was cooled to room temperature, the catalyst was removed by filtration through a celite pad and the pad was washed with ethanol. Concentrated HCl (3 ml) was added to the filtrate and the solvents were removed in vacuo. The residue was dissolved in isopropanol (10 ml) and was heated on a steam bath for 10 minutes. A solid was collected by filtration, washed with isopropanol and dried at 90° C. in high vacuum to afford 0.83 g (84%) of 1-cyclopentyl-3-ethyl-6-(perhydro-4-quinolinyl)pyrazolo[3,4-d]pyrimidin-4-one as a white powder, m.p. >300° C.

reactant | 1-Cyclopentyl-3-ethyl-6-(4-quinolinyl)-pyrazolo[3,4-d]-pyrimidin-4-one | 2.7 mmol, 1.0 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC1=CC=CC=C21)CC | C21H21N5O
catalyst | platinum oxide | 0.15 g | [Pt]=O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-(perhydro-4-quinolinyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.83 g, 84% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2CCNC1CCCCC21)CC | C21H31N5O
